US07427612B2
rac-(2-Iodo-5-methanesulfonyl-phenyl)-[3-methyl-4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone
To a solution of rac-3-Methyl-4-(4-trifluoromethyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester (95 mg, 0.27 mmol) in dichloromethane (2 ml) was added trifluoroacetic acid (1 ml) and the reaction mixture was stirred at room temperature for 30 min. After such time the reaction mixture was concentrated in vacuo, and the residue was dissolved in dimethylformamide (3 ml). To the solution were added 2-Iodo-5-methanesulfonyl-benzoic acid (81 mg, 0.25 mmol), N-ethyldiisopropylamine (0.29 ml, 1.7 mmol), and TBTU (99 mg, 0.3 mmol). The reaction mixture was then allowed to stir at room temperature for 2 hours. The reaction mixture was then concentrated in vacuo and the residue was purified by column chromatography (SiO2, 20 g, Heptane/EtOAc 0-100%) to give the title compound as a light brown solid (135 mg, 90%). MS (m/e): 553.1 (M+H+).

reactant | rac-3-Methyl-4-(4-trifluoromethyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 0.27 mmol, 95 mg | C(C)(C)(C)OC(=O)N1CC(N(CC1)C1=CC=C(C=C1)C(F)(F)F)C | C17H23F3N2O2
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-Iodo-5-methanesulfonyl-benzoic acid | 0.25 mmol, 81 mg | IC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C | C8H7IO4S
reactant | N-ethyldiisopropylamine | 1.7 mmol, 0.29 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | TBTU | 0.3 mmol, 99 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | rac-(2-Iodo-5-methanesulfonyl-phenyl)-[3-methyl-4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone | 135 mg, 90% | IC1=C(C=C(C=C1)S(=O)(=O)C)C(=O)N1CC(N(CC1)C1=CC=C(C=C1)C(F)(F)F)C | C20H20F3IN2O3S
